US07893059B2
5-Chloro-2-iodo-7-morpholinothiazolo[4,5-d]pyrimidine, 4-methoxypyridine-3-boronic acid hydrate, and trans-dichlorobis(triphenylphosphine)palladium(II) (0.1 eq) were slurried with equal parts 1M sodium carbonate aqueous solution (3 eq) and acetonitrile. The solution was microwaved at 100° C. for 10 minutes. Water was added and the solution was filtered to give the product 5-chloro-2-(4-methoxypyridin-3-yl)-7-morpholinothiazolo[4,5-d]pyrimidine.

reactant | 5-Chloro-2-iodo-7-morpholinothiazolo[4,5-d]pyrimidine | ClC=1N=C(C2=C(N1)N=C(S2)I)N2CCOCC2 | C9H8ClIN4OS
reactant | 4-methoxypyridine-3-boronic acid hydrate | O.COC1=C(C=NC=C1)B(O)O
reactant | sodium carbonate | 1M, 3 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetonitrile | C(C)#N | C2H3N
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | Water | O | H2O
product | 5-chloro-2-(4-methoxypyridin-3-yl)-7-morpholinothiazolo[4,5-d]pyrimidine | ClC=1N=C(C2=C(N1)N=C(S2)C=2C=NC=CC2OC)N2CCOCC2 | C15H14ClN5O2S
